US07563903B2
7.4 5-{2-[(4-Pryidinyloxy)methyl]phenyl}-1,3-thiazolamine
20 ml of a 4M gaseous hydrochloric acid solution in ethyl acetate are added to 1 g of tert-butyl 5-{2-[(4-pyridinyloxy)methyl]phenyl}-1,3-thiazol-2-ylcarbamate, obtained in step 7.3, in 20 ml of dichloromethane. The mixture is left for 4 hours at room temperature. The reaction medium is concentrated and it is brought to a basic pH with a 5% sodium hydrogen sulphate solution. The precipitate formed is filtered and chromatographed on a silica gel column, eluting with a dichloromethane/methanol 95/5 (V/V) mixture to give 0.58 g of a beige foam.

reactant | hydrochloric acid | 4M | Cl | ClH
reactant | tert-butyl 5-{2-[(4-pyridinyloxy)methyl]phenyl}-1,3-thiazol-2-ylcarbamate | 1 g | N1=CC=C(C=C1)OCC1=C(C=CC=C1)C1=CN=C(S1)NC(OC(C)(C)C)=O | C20H21N3O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-{2-[(4-Pryidinyloxy)methyl]phenyl}-1,3-thiazolamine | 0.58 g | N1=CC=C(C=C1)OCC1=C(C=CC=C1)C1=CN=C(S1)N | C15H13N3OS
